US07144899B2
Step A: tert-Butyl (2S)-2-({[5-chloro-2-(1H-tetraazol-1-yl)benzyl]amino}carbonyl)piperidine-1-carboxylate
A mixture of (2S)-1-(tert-butoxycarbonyl)piperidine-2-carboxylic acid (299 mg, 1.30 mmol), 1-[5-chloro-2-(1H-tetraazol-1-yl)phenyl]methanamine (293 mg, 1.40 mmol), EDC (376 mg, 1.96 mmol) and HOAt (89 mg, 0.65 mmol) in DMF (7 mL) was stirred at room temperature for 16 h. Water and saturated aqueous K2CO3 were added and the mixture was extracted with EtOAc. The organic layer was washed with brine and the combined aqueous layers were extracted once with CH2Cl2. The combined organic extracts were dried (Na2SO4) and concentrated to a yellow oil. Silica gel chromatography (65% EtOAc-hexanes) afforded the title compound as a light yellow foam. 1H NMR (400 MHz, CDCl3): δ 8.99 (s, 1 H), 7.60 (d, J=1.8 Hz, 1 H), 7.46 (dd, J=1.8, 8.4 Hz, 1 H), 7.29–7.26 (m, 1 H), 6.84 (br m, 1 H), 4.74 (br m, 1 H), 4.29–4.16 (m, 2 H), 4.04 (br m, 1 H), 2.76–2.70 (m, 1 H), 2.24–2.04 (m, 1 H), 1.64–1.32 (br m, 5 H), 1.48 (s, 9 H).

reactant | (2S)-1-(tert-butoxycarbonyl)piperidine-2-carboxylic acid | 1.30 mmol, 299 mg | C(C)(C)(C)OC(=O)N1[C@@H](CCCC1)C(=O)O | C11H19NO4
reactant | 1-[5-chloro-2-(1H-tetraazol-1-yl)phenyl]methanamine | 1.40 mmol, 293 mg | ClC=1C=CC(=C(C1)CN)N1N=NN=C1 | C8H8ClN5
reactant | EDC | 1.96 mmol, 376 mg
reactant | HOAt | 0.65 mmol, 89 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | tert-Butyl (2S)-2-({[5-chloro-2-(1H-tetraazol-1-yl)benzyl]amino}carbonyl)piperidine-1-carboxylate | ClC=1C=CC(=C(CNC(=O)[C@H]2N(CCCC2)C(=O)OC(C)(C)C)C1)N1N=NN=C1 | C19H25ClN6O3
